US04388317
Reaction of 3-(3-dimethylaminomethylphenoxy)propylamine with 2-nitroamino-5-(5-dimethylaminomethyl-2-thienyl methyl)-4-pyrimidone gives 2-[3-(3-dimethylaminomethylphenoxy)propylamino]-5-(5-dimethylaminomethyl-2-thienylmethyl)-4-pyrimidone.

reactant | 3-(3-dimethylaminomethylphenoxy)propylamine | CN(C)CC=1C=C(OCCCN)C=CC1 | C12H20N2O
reactant | 2-nitroamino-5-(5-dimethylaminomethyl-2-thienyl methyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1SC(=CC1)CN(C)C | C12H15N5O3S
product | 2-[3-(3-dimethylaminomethylphenoxy)propylamino]-5-(5-dimethylaminomethyl-2-thienylmethyl)-4-pyrimidone | CN(C)CC=1C=C(OCCCNC2=NC=C(C(N2)=O)CC=2SC(=CC2)CN(C)C)C=CC1 | C24H33N5O2S
